US05506261
A mixture of N,O-Bis(phenoxycarbonyl)-N-(3-butyn-2-yl)hydroxylamine (3.14 g,9.7 mmol), methanol (20 mL), and ammonium hydroxide (20 mL) was stirred for 17 hours at ambient temperature. The reaction mixture was concentrated in vacuo and the residue was dissolved in ethyl acetate. The organic solution was washed with brine, dried over MgSO4, filtered, and concentrated. Chromatography on silica gel (2% methanol, methylene chloride) afforded N-(3-butyn-2-yl)N-hydroxyurea (340 rag, 28%). 1H NMR (DMSO-26, 300 MHz) δ1.25 (d, 3H, J=7.5 Hz), 3.05 (d, 1H, J=3.0 Hz), 4.85 (dq, 1H, J=7.5, 3.0 Hz), 6.50 (br s, 1H), 9.25 (S, 1H). MS (DCI/NH3) m/e 129 (M+H)+, 146 (M+NH4)+. Anal calcd for C5H8N2O2 : C, 46.87; H, 6.29; N, 21.86. Found: C, 47.03; H, 6.27; N, 21.98.

reactant | N,O-Bis(phenoxycarbonyl)-N-(3-butyn-2-yl)hydroxylamine | 9.7 mmol, 3.14 g | O(C1=CC=CC=C1)C(=O)N(OC(=O)OC1=CC=CC=C1)C(C)C#C | C18H15NO5
reactant | ammonium hydroxide | 20 mL | [OH-].[NH4+]
solvent | methanol | 20 mL | CO | CH4O
product | N-(3-butyn-2-yl)N-hydroxyurea | 28% | CC(C#C)N(C(=O)N)O | C5H8N2O2
